US07989480B2
(R)-2-tert-Butoxycarbonylamino-3-[4-(4-phenoxy-phenoxy)-phenyl]-propionic acid methyl ester
To a solution of Boc-D-Tyrosine-Methyl ester (0.150 g, 0.508 mmol), 4-Phenoxyphenyl-boronic acid (0.109 g, 0.508 mmol), and triethylamine (0.355 mL, 2.539 mmol) in anhydrous dichloromethane (DCM) (12.5 mL) at room temperature under an atmosphere of nitrogen was added copper (II) acetate (0.070 g, 0.508 mmol), and the resulting mixture was stirred at room temperature for about 18 h. The reaction mixture was washed with 20 mL of water and 20 mL of DCM and filtered. The DCM layer was then extracted. The aqueous layer was re-extracted with DCM (2×15 mL). The combined organic layers were dried over anhydrous Na2SO4, filtered, and the solvent was removed in vacuo to obtain the crude mixture, which was purified by of silica gel flash chromatography, using ethyl acetate (EtOAc)/hexane (gradient system), to obtain the product (110 mg, 47%): 1H NMR (400 MHz, CDCL3): δ 1.42 (s, 9H), 2.98-3.09 (m, 2H), 3.71 (d, J=5.2 Hz), 4.55-4.58 (m, 1H), 4.98-5.01 (m, 1H), 6.75 (d, 1H, J=8.4 Hz), 6.91-7.02 (m, 6H), 7.07-7.11 (m, 3H), 7.31-7.35 (m, 2H); MS: m/z 364 (MH)+ & no -boc group, m/z 464 (MH)+.

reactant | Boc-D-Tyrosine-Methyl ester | 0.508 mmol, 0.150 g | COC([C@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O | C15H21NO5
reactant | 4-Phenoxyphenyl-boronic acid | 0.508 mmol, 0.109 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)B(O)O | C12H11BO3
reactant | triethylamine | 2.539 mmol, 0.355 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 12.5 mL | ClCCl | CH2Cl2
catalyst | copper (II) acetate | 0.508 mmol, 0.070 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | (R)-2-tert-Butoxycarbonylamino-3-[4-(4-phenoxy-phenoxy)-phenyl]-propionic acid methyl ester | 110 mg, 47% | COC([C@@H](CC1=CC=C(C=C1)OC1=CC=C(C=C1)OC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C27H29NO6
